US04120690
A two-liter reaction flask fitted with a magnetic stirrer, heating mantle, dropping funnel, thermometer, water-cooled condenser and Dean Stark trap was charged with 156.2 g (1.2 moles) of ethyl acetoacetate and 400 ml of xylene. The dropping funnel contained 161 g (1.0 mole) of 3-aminobenzotrifluoride and 320 ml xylene. The solution in the reaction pot was heated to 135° and the contents of the dropping funnel were added dropwise over a period of 3 hours. The low-boiling liquid which accumulated in the Dean Stark trap was periodically drained in order to maintain a reaction temperature of about 135°. After 4 hours, the reaction was judged to be completed and the reaction solution was cooled. There was added 650 ml of hexane. Cooling in an ice bath yielded a white crystalline precipitate. The product was collected on a vacuum filter and dried in an oven. There was obtained 136.6 g (55.7%) of 3'-trifluoromethylacetoacetanilide, m.p. 109°-10°. N.M.R. (CDCl3) ∂ 2.2 (CH3, keto), 3.5 (CH2), 7.2-7.9 (aromatic), 1.8 (CH3, enol).

reactant | water | O | H2O
reactant | ethyl acetoacetate | 1.2 moles, 156.2 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | xylene | 400 ml | C=1(C(=CC=CC1)C)C | C8H10
reactant | 3-aminobenzotrifluoride | 1.0 mole, 161 g | NC=1C=C(C=CC1)C(F)(F)F | C7H6F3N
reactant | xylene | 320 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | hexane | 650 ml | CCCCCC | C6H14
product | 3'-trifluoromethylacetoacetanilide | 136.6 g, 55.7% | FC(C=1C=C(NC(CC(=O)C)=O)C=CC1)(F)F | C11H10F3NO2
